US08497265B2
Step 1. Tert-Butyl 4-(2-(1-(Quinolin-2-yl)Piperidin-4-yloxy)Pyridin-3-yl)Piperidine-1-Carboxylate
Sodium hydride (60% dispersion in mineral oil, 254 mg, 10.58 mmol) was added to a solution of 1-(quinolin-2-yl)piperidin-4-ol (see PREPARATION P1.1; 805 mg, 3.53 mmol) in DMF (16.8 ml) under an atmosphere of nitrogen and the mixture was stirred for 15 mins at RT. Tert-butyl 4-(3-chloropyrazin-2-yl)piperidine-1-carboxylate (see PREPARATION P16.1; 1050 mg, 3.53 mmol) was next added, and the mixture was heated at 100° C. After the reaction was complete, the mixture was cooled to RT and diluted with EtOAc and water. The layers were separated and the aqueous was extracted with EtOAc (2×). The combined organic layers were dried over sodium sulfate, filtered and concentrated and used in the next step without further purification.

reactant | Sodium hydride | 10.58 mmol, 254 mg | [H-].[Na+]
reactant | 1-(quinolin-2-yl)piperidin-4-ol | 3.53 mmol, 805 mg | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)O | C14H16N2O
reactant | Tert-butyl 4-(3-chloropyrazin-2-yl)piperidine-1-carboxylate | 3.53 mmol, 1050 mg | ClC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20ClN3O2
reactant | DMF | 16.8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Tert-Butyl 4-(2-(1-(Quinolin-2-yl)Piperidin-4-yloxy)Pyridin-3-yl)Piperidine-1-Carboxylate | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)OC1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C29H36N4O3
